US07030118B2
G) (±)-(3-{[(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-cyclopropyl-methyl]-amino}-propyl)-carbamic acid tert-butyl ester
A solution of 3-benzyl-7-chloro-2-(cyclopropyl-hydroxy-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (0.32 g, 0.92 mmol) and N-BOC-1,3-diaminopropane (Fluka, 1.0 g, 5.7 mmol) in xylene (12 mL) was heated at 110° C. under nitrogen for 4 days. The solvent was removed under reduced pressure. Purification of the residue by flash column chromatography (SiO2, EtOAc/hexane 1:3 to 3:2) gave the title compound as a light yellow oil (0.31 g, 62%): 1H NMR (CDCl3) δ 7.25 (m, 3H), 7.20 (m, 1H), 7.07 (d, 2H, J=7.15 Hz), 7.00 (d, 1H, J=4.95 Hz), 6.44 (d, 1H, J=4.95 Hz), 5.41 (m, 1H), 4.82 (m, 1H), 3.33 (m 1H), 3.03 (m, 2H), 2.40 (m, 2H), 1.52 (m, 2H), 1.35 (s, 9H), 1.30 (m, 2H), 1.19 (m, 2H), 0.52 (m, 1H), 0.35 (m, 1H), 0.13 (m, 1H); MS (ESI+) 486.17, 488.17 (M++H).

reactant | 3-benzyl-7-chloro-2-(cyclopropyl-hydroxy-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 0.92 mmol, 0.32 g | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=CC=C2Cl)C(O)C2CC2 | C17H16ClN3O2
reactant | N-BOC-1,3-diaminopropane | 5.7 mmol, 1.0 g | C(=O)(OC(C)(C)C)NCCCN | C8H18N2O2
solvent | xylene | 12 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (±)-(3-{[(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-cyclopropyl-methyl]-amino}-propyl)-carbamic acid tert-butyl ester | 0.31 g, 62% | C(C)(C)(C)OC(NCCCNC(C1CC1)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2Cl)=O | C25H32ClN5O3
